US07943551B2
Step 1: 3-Cyclopropylmethylsulfonyl-2-methyl-4-methylsulfonylbenzoic acid
952 mg (3.17 mmol) of 3-cyclopropylmethylthio-2-methyl-4-methylsulfonylbenzoic acid were dissolved in 15 ml of glacial acetic acid. 31 mg (0.095 mmol) of sodium tungstate(VI) dihydrate were added, and the mixture was then heated to 60° C. At this temperature, 1.44 g (30% strength, 12.7 mmol) of an aqueous hydrogen peroxide solution were carefully added dropwise. The mixture was stirred at this temperature for two days. The mixture was then cooled and, for work-up, poured into water. The mixture was extracted twice with EA, the combined organic phases were washed with an aqueous, saturated sodium bisulfite solution, and, after analytical confirmation of the absence of peroxides, the mixture was dried, filtered and freed under reduced pressure from the solvents. 744 g of the product were isolated.

reactant | 3-cyclopropylmethylthio-2-methyl-4-methylsulfonylbenzoic acid | 3.17 mmol, 952 mg | C1(CC1)CSC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C13H16O4S2
reactant | hydrogen peroxide | 12.7 mmol, 1.44 g | OO | H2O2
reactant | water | O | H2O
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
catalyst | sodium tungstate(VI) dihydrate | 0.095 mmol, 31 mg | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 3-Cyclopropylmethylsulfonyl-2-methyl-4-methylsulfonylbenzoic acid | 744 g | C1(CC1)CS(=O)(=O)C=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C13H16O6S2
